Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
ibuprofen / Influenza Virus Vaccines / quinine
 
Attending: ___.
 
Chief Complaint:
GI bleed
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is an ___ y/o F with a history of chronic systolic 
heart failure who presents via ___ for management of 
unstable GI bleeding.  
 Per medical records, patient presented to ___ on 
___ with BRBPR. This was thought to be secondary to LGIB 
but imaging was negative. Dr. ___ felt she was too high 
risk for procedures so conservative management initiated with IV 
BID PPI and hydrocortisone suppositories. H/H decreased from 
47.3 on admission to 20.9 on ___. She required 1 units of 
PRBC transfusion on ___ and ___ each. On ___, she had 
large amounts of BRBPR with hypotension and Hct of 20 again. 
Second imaging study was negative and she was transferred to the 
___ ICU in the evening where she received 3 units of 
pRBC's on ___. Also required IV Lasix diuresis after 
transfusions. She was transferred back to the floor on ___ 
but continued to have hematochezia. Family requested transfer to 
___ for possible colonoscopy vs ___ procedure. Vitals prior to 
transfer were:  
 Of note, the family is at bedside during interview and patient 
is minimally verbal. They report recent hospitalization in 
___ for fall at her living facility.  
 Upon arrival to the floor, patient is ill-appearing, non-verbal 
and minimally participatory in interview. When asked questions, 
she repeatedly points to the LLQ of her abdomen.  
 REVIEW OF SYSTEMS: Patient is non-verbal during most of 
interview. She points to her stomach when asked about pain.
 
Past Medical History:
- HFrEF
- HTN  
- Chronic anemia  
- Osteoarthritis  
- Cataracts  
- s/p left hip replacement (___)  
- s/p bilateral cataract surgery 
 
Social History:
___
Family History:
No family history of cardiovascular disease. 
 
Physical Exam:
Admission Exam
================
VITALS: 98.0 91/61 102 16 16 100% on 2L  
GENERAL: ill-appearing, elderly, no acute distress  
HEENT: NC/AT, no scleral icterus  
NECK: Supple, no LAD  
CARDIAC: irregular, tachycardic, no murmurs appreciated  
PULMONARY: clear anteriorly, no wheezing  
ABDOMEN: hypoactive bowel sounds, soft, non-distended, patient 
points to abdomen but no rebound tenderness or guarding  
EXTREMITIES: warm, no ___ edema  
NEUROLOGIC: non-verbal during interview and partially responsive 
to commands (e.g. squeezed hands when asked but did not smile), 
awake, moving all extremities with purpose 

Discharge Exam
================= 
Vital Signs:  T 97.5, BP 101/77 P 93-107 RR 18 O2 98% RA
GENERAL: ill-appearing, elderly, no acute distress  
HEENT: NC/AT, no scleral icterus  
NECK: Supple, no LAD  
CARDIAC: irregular, tachycardic, no murmurs appreciated  
PULMONARY: clear anteriorly, no wheezing  
ABDOMEN: hypoactive bowel sounds, soft, non-distended, no 
tenderness to palpation. EXTREMITIES: warm, no ___ edema  
NEUROLOGIC: Oriented to self and hospital. alert, responds to 
questions appropriately, following commands.
 
Pertinent Results:
Admission Labs
==================
___ 11:42PM BLOOD WBC-9.4 RBC-3.87* Hgb-11.6 Hct-37.1 
MCV-96 MCH-30.0 MCHC-31.3* RDW-16.9* RDWSD-56.5* Plt ___
___ 11:42PM BLOOD ___ PTT-28.8 ___
___ 11:42PM BLOOD Glucose-87 UreaN-26* Creat-1.0 Na-140 
K-3.8 Cl-111* HCO3-21* AnGap-12
___ 11:42PM BLOOD Calcium-8.7 Phos-3.2 Mg-2.3
___ 11:47PM BLOOD ___ pO2-29* pCO2-43 pH-7.32* 
calTCO2-23 Base XS--4
___ 11:47PM BLOOD Lactate-1.2

Imaging
=========
CXR ___:
IMPRESSION:  
Cardiac silhouette is mildly enlarged.  Pulmonary vascularity is 
normal, and there is no evidence of pulmonary edema.  Lungs 
demonstrate linear bibasilar atelectasis or scar as well as a 
questionable 1 cm nodule in the right upper lobe, difficult to 
evaluate due to superimposition of scapula and rib at this 
level.   
RECOMMENDATION(S):  Standard PA and lateral chest radiograph is 
recommended prior to discharge to better assess a possible right 
upper lobe lung nodule. 

CXR PA/Lateral ___
IMPRESSION:    
Comparison to ___.  Moderate cardiomegaly.  Elongation 
of the 
descending aorta.  Platelike atelectasis at the right lung 
basis.  A 
previously described rounded density projects in part over the 
ribs and the right scapular.  For further assessment of location 
and morphology, CT is required.  No pleural effusions. 

Discharge Labs
=================
___ 09:30AM BLOOD WBC-7.0 RBC-4.11 Hgb-12.4 Hct-39.1 MCV-95 
MCH-30.2 MCHC-31.7* RDW-16.1* RDWSD-53.9* Plt ___
___ 09:30AM BLOOD Glucose-98 UreaN-18 Creat-0.7 Na-142 
K-3.9 Cl-108 HCO3-25 AnGap-13
___ 09:30AM BLOOD Calcium-8.6 Phos-3.2 Mg-2.2
 
Brief Hospital Course:
Ms. ___ is an ___ y/o F with a history of chronic systolic 
heart failure who presents via ___ for management of 
unstable GI bleeding.
 
# ACUTE BLOOD LOSS ANEMIA: Patient with acute blood loss anemia 
s/p at least 5 units of pRBCs at ___. OSH records indicate 
that patient had several episodes of BRBPR and she was noted to 
have one episode of melena on arrival to ___. Hemoglobin was 
11.5 with lactate of 1.2 on arrival so no urgent intervention 
was pursued. Per GI, diverticular bleed most likely. Hemoglobin 
remained stable throughout admission and patient had no further 
frankly bloody stools. Patient was initially NPO on BID IV PPI, 
but given low suspicion for ulcer, PPI was stopped on ___. 
Patient advanced to clears given stable counts and no further 
bleeding. Prior to discharge to rehab, patient tolerating low 
residue diet without issue. Patient to follow up with primary 
care physician as outpatient.  
 
# CHRONIC SYSTOLIC HEART FAILURE: Patient with record of chronic 
systolic HF on Lasix at home but no Echo on file at ___. 
Patient did not appear to be volume overloaded on exam, but 
arrived on 3L O2, which per daughter is not her baseline. Per 
OSH medication reconciliation patient not on beta blocker at 
home. Outpatient Lasix dosing (80mg PO BID) was decreased to 
40mg BID as patient appeared dry and Diamox was stopped. Patient 
was weaned off oxygen and was satting in high ___ on room air 
prior to discharge. 
 
# ATRIAL FIBRILLATION: Patient was in atrial fibrillation 
throughout admission, with one episode of RVR, with rates 
sustained in 130-150s on ___. Patient asymptomatic and blood 
pressures remained stable. Patient's heart rate improved with 
2.5mg IV Metoprolol and 500cc IVF bolus. Patient not on 
anticoagulation or rate control at home. She was started on 
Metoprolol 12.5mg PO BID, with improvement in rates to 90-100's. 
She was discharged on this dose with plan for re-evaluation by 
physician at rehab. 

# RIGHT HIP PAIN: S/p fall in ___, now with R hip pain. 
Patient treated with Tylenol with good effect. 
 
Transitional Issues:
[ ] Patient has 1 cm pulmonary nodule in right upper lobe noted 
incidentally on CXR. Radiology recommended a CT chest for 
further characterization, which should be ordered by the PCP. 
[ ] Patient with atrial fibrillation, previously not on beta 
blocker or anticoagulation. One episode of RVR during admission. 
Started on Metoprolol 12.5mg BID. Please continue as outpatient. 
CHADSVASC score 3, so may consider anticoagulation in future if 
within goals of care.
[ ] Patient did not appear to be volume overloaded on exam and 
became dry on home dose Lasix 80mg BID. Lasix decreased to 40mg 
BID. Please monitor volume status and daily standing weights and 
adjust dose as needed.
[ ] Patient's Diamox held on admission and not re-started at 
discharge due to decrease in Lasix dose. Please assess the need 
for this medication as outpatient.
[ ] Prior to transfer patient had hemodynamically significant GI 
bleed. Please follow CBC as outpatient and monitor for further 
episodes of bleeding.
[ ] Per GI, to prevent further bleeding, patient should avoid 
all NSAIDS.
CONTACT: ___, ___; C: ___ (granddaughter, HCP) 
CODE STATUS: FULL (confirmed) 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Furosemide 80 mg PO BID 
2. Senna 8.6 mg PO DAILY:PRN constipation 
3. Multivitamins 1 TAB PO DAILY 
4. Fleet Enema ___AILY:PRN constipation 
5. Magnesium Oxide 400 mg PO DAILY 
6. AcetaZOLamide 250 mg PO TID 
7. Vitamin E 400 UNIT PO DAILY 
8. Acetaminophen 650 mg PO Q6H:PRN pain/fever 
9. Bisacodyl ___AILY:PRN constipation 
10. Artificial Tears 1 DROP BOTH EYES BID 

 
Discharge Medications:
1. Furosemide 40 mg PO BID 
2. Metoprolol Tartrate 12.5 mg PO BID 
3. Acetaminophen 650 mg PO Q6H:PRN pain/fever 
4. Artificial Tears 1 DROP BOTH EYES BID 
5. Bisacodyl ___AILY:PRN constipation 
6. Fleet Enema ___AILY:PRN constipation 
7. Magnesium Oxide 400 mg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
9. Senna 8.6 mg PO DAILY:PRN constipation 
10. Vitamin E 400 UNIT PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Primary Diagnoses
==================
Lower GI bleed

Secondary Diagnoses
===================
Atrial fibrillation witj rapid ventricular response
Chronic heart failure with reduced ejection fraction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for gastrointestinal bleed. You had 
one episode of bloody stool upon arrival to the hospital, but 
the bleeding has since stopped and your blood levels remained 
stable. You were evaluated by gastrointestinal specialists who 
determined that a colonoscopy (procedure using a camera to 
visualize your colon) was not necessary. You should follow up 
with your primary care doctor as outpatient after rehab.

During this admission you had an episode of your heart beating 
very fast. We started you on a medication called Metoprolol, 
which helps the heart to slow down. You should continue this 
medication unless told otherwise by your doctor.

You should return to the ED if you have further episodes of 
bloody or black stools.

It was a pleasure caring for you.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___